US04101656
5-(2,4-Dinitrophenylthio)-1-(2-methanesulfonamidoethyl)tetrazole (4.46 g, 11.5 mmol) was added to 60 ml of 5% sodium methoxide in methanol. After 1 hour, water was added and the solid material was removed by filtration. The filtrate was concentrated in vacuo and 3N hydrochloric acid was added to the residue to bring the pH to 1.4. The acidic solution was filtered and the filtrate was extracted twice with ethyl acetate. The extracts were combined and concentrated to give a residue which crystallized upon addition of ethyl acetate to give 1-(2-methanesulfonamidoethyl)tetrazole-5-thiol, mp 131°-132°.

reactant | 5-(2,4-Dinitrophenylthio)-1-(2-methanesulfonamidoethyl)tetrazole | 11.5 mmol, 4.46 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SC1=NN=NN1CCNS(=O)(=O)C | C10H11N7O6S2
reactant | sodium methoxide | 60 ml | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 1-(2-methanesulfonamidoethyl)tetrazole-5-thiol | CS(=O)(=O)NCCN1N=NN=C1S | C4H9N5O2S2
